US07166648B2
10.2 g of 3-acetyl-2,6-heptandione and 5 drops of 1,8-diazabicyclo-[5.4.0]-undec-7-ene were mixed, and 9 g of ethyl acrylate was added dropwise over 15 minutes. After stirring for 16 hours, the base was neutralized with acetic acid, 30 ml of diethyl ether was added, and the solution was extracted with sodium carbonate solution and water. Fractional distillation of the dry organic layer yielded 9.3 g of 4,4-diacetyl-7-oxo-octanoic-ethyl ester (boiling point: 136° C./0.02 mbar; purity: 81%; colorless).

reactant | 3-acetyl-2,6-heptandione | 10.2 g | C(C)(=O)C(C(C)=O)CCC(C)=O | C9H14O3
reactant | ethyl acrylate | 9 g | C(C=C)(=O)OCC | C5H8O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | 5 drops | N12CCCCCC2=NCCC1 | C9H16N2
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 4,4-diacetyl-7-oxo-octanoic-ethyl ester | 9.3 g | C(C)OC(CCC(CCC(C)=O)(C(C)=O)C(C)=O)=O | C14H22O5
